US06084095
A mixture of 7-amino-4-methylthiopyrido[4,3-d]pyrimidine (220 mg, 1.15 mmole) and 2-nitroaniline (2.00 g, 14.5 mmole) is heated to 100° C., then excess dry HCl gas is added to the hot stirred solution, and the mixture stirred at 160° C. for 20 min. The resulting product is neutralized with excess NaHCO3, dissolved in MeOH/CHCl3, dried onto silica gel and chromatographed over silica gel (2-4% MeOH/CH2Cl2) to give 7-amino-4-(2-nitroanilino)pyrido[4,3-d]pyrimidine (108 mg, 33%) as a yellow brown solid. 1H NMR (DMSO) δ 10.40 (1H, brs), 9.24 (1H, brs), 8.20 (1H, brs), 8.12 (1H, brs), 8.01 (2H, brs), 7.75 (1H, brs), 6.70 (2H, brs), 6.43 (1H, brs).

reactant | 7-amino-4-methylthiopyrido[4,3-d]pyrimidine | 1.15 mmole, 220 mg | NC1=CC=2N=CN=C(C2C=N1)SC | C8H8N4S
reactant | 2-nitroaniline | 14.5 mmole, 2.00 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | HCl | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | 7-amino-4-(2-nitroanilino)pyrido[4,3-d]pyrimidine | 108 mg, 33% | NC1=CC=2N=CN=C(C2C=N1)NC1=C(C=CC=C1)[N+](=O)[O-] | C13H10N6O2
